US05889026
A mixture containing 4-(4-methyl-benzyl)-piperidin-4-ol (5.1 g, 25 mmol), 2-bromoethanol (1.8 ml, 25 mmol) and K2CO3 (5.2 g, 37.5 mmol) in 2-butanone (120 ml) was refluxed for 22 hours. H2O (30 ml) was added and the aqueous phase was extracted with ethylacetate. Combined organic phases were dried over Na2SO4, and concentrated. The residue was chromatographed over silica gel (CH2Cl2 --MeOH, 9:1 +NH4OH (1%)) to provide 1-(2-hydroxy-ethyl)-4-(4-methyl-benzyl)-piperidin-4-ol (4.3 g, 73%) as a yellow oil, MS: m/e=235.3 (M+).

reactant | 4-(4-methyl-benzyl)-piperidin-4-ol | 25 mmol, 5.1 g | CC1=CC=C(CC2(CCNCC2)O)C=C1 | C13H19NO
reactant | 2-bromoethanol | 25 mmol, 1.8 ml | BrCCO | C2H5BrO
reactant | K2CO3 | 37.5 mmol, 5.2 g | C(=O)([O-])[O-].[K+].[K+]
reactant | H2O | 30 ml | O | H2O
solvent | 2-butanone | 120 ml | CC(CC)=O | C4H8O
product | 1-(2-hydroxy-ethyl)-4-(4-methyl-benzyl)-piperidin-4-ol | 4.3 g, 73% | OCCN1CCC(CC1)(O)CC1=CC=C(C=C1)C | C15H23NO2
